US06432947B1
To 2-[(3-aminopropyl)[2-(1H-imidazol-1-yl)6-methyl-4-pyrimidinyl]amino]-N-[2-(4-methoxyphenyl)ethyl]acetamide (135 mg, 0.32 mmol) (a compound of formula (Yc6)) in pyridine (1.5 mL) was added water (1.5 mL) solution of potassium cyanate (64 mg, 0.76 mmol). The mixture was stirred and heated in an oil bath at 80° C. overnight. The mixture was poured into water and extracted with ethyl acetate (3×20 mL). The combined ethyl acetate fractions were washed with brine, dried over sodium sulfate and concentrated. The residue was purified by chromatography on silica gel (9:1 CH3CN/NH4OH) to afford 2-[[3-(ureido)propyl][2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]-N-[2-(4-methoxyphenyl)ethyl]acetamide, a compound of formula (Yc9); as a white solid; NMR (DMSO-d6, 90 C.) 8.4 (s, 1), 7.8 (s, 1), 7.05 (d, 2), 7.0 (s, 1), 6.75 (d, 2), 6.4 (s, 1), 4.1 (s, 2), 3.7 (s, 3), 3.5 (m, 2), 3.25 (m, 2), 3.05 (m, 2), 2.65 (t, 2), 2.3 (s, 3), 1.7 (m, 2) ppm.

reactant | 2-[(3-aminopropyl)[2-(1H-imidazol-1-yl)6-methyl-4-pyrimidinyl]amino]-N-[2-(4-methoxyphenyl)ethyl]acetamide | 0.32 mmol, 135 mg | NCCCN(CC(=O)NCCC1=CC=C(C=C1)OC)C1=NC(=NC(=C1)C)N1C=NC=C1 | C22H29N7O2
reactant | water | 1.5 mL | O | H2O
reactant | potassium cyanate | 0.76 mmol, 64 mg | [O-]C#N.[K+]
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | 2-[[3-(ureido)propyl][2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]-N-[2-(4-methoxyphenyl)ethyl]acetamide | N(C(=O)N)CCCN(CC(=O)NCCC1=CC=C(C=C1)OC)C1=NC(=NC(=C1)C)N1C=NC=C1 | C23H30N8O3
